2124-09-28 07:29:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4944**] PROGRESS NOTE
   Chief Complaint:    dyspnea
   58 M w/ CML s/p BMT in [**2121**], on lovenox for PEs, has chronic GVHD and
   was recently discharged after hypoxia and intubation in the ICU who
   presents today with hypoxia.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-9-28**] 02:02 AM
   Acyclovir - [**2124-9-28**] 04:13 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2124-9-28**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-28**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.3
C (95.6
   HR: 86 (73 - 88) bpm
   BP: 113/67(79) {101/54(67) - 115/73(81)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             522 mL
   PO:
             TF:
   IVF:
   522 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    660 mL
   Urine:
   660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Other
   SpO2: 96%
   ABG: 7.35/66/62/33/7
   PaO2 / FiO2: 78
   Physical Examination
   PHYSICAL EXAM
   GENERAL: ill appearing male, talking in full sentence
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.  dry MM. OP clear. Neck Supple, No LAD.
   CARDIAC: very difficult to hear given breath sounds
   LUNGS: gurgling and course rales throughout lungs posteriorly, no
   increased work of breathing of respiratory muscles
   ABDOMEN: +BS. distended. Tender throughout lower abd. No rebound.
   EXTREMITIES: LE equal bilaterally to sacrum.  Unable to palpate DP
   pulses secondary to edema. 2+ radial pulses. Chronic venous stasis of
   lower extremities.
   SKIN: + chronic venous stasis of lower extremities.  blood blisters on
   left hand.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout grossly. 5/5 strength UE And LE. 2+ reflexes in UE.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   154 K/uL
   9.0 g/dL
   115 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.7 mEq/L
   27 mg/dL
   100 mEq/L
   139 mEq/L
   27.2 %
   3.2 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
   WBC
   3.2
   Hct
   27.2
   Plt
   154
   Cr
   0.7
   TropT
   0.12
   TCO2
   38
   Glucose
   115
   Other labs: CK / CKMB / Troponin-T:15/5/0.12, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, resistant pseudomonal infections, and recent
   intubation who presents with respiratory distress and hypoxia.
   .
   # Hypoxic Respiratory Failure: Respiratory distress likely due to PNA.
   WBC 4.5 with one band. Very gurguley and course breath sounds.  Could
   be worse bronchiectasis or bronchiolitis obliterans related to his
   GVHD.  Possible H1N1. Pt has h/o PEs but unlikely given infiltrate on
   CXR.
   -stable on face tent 100%
   -Broad-spectrum abx with cefepime, levofloxacin, vanco.
   -consider changing vanco to linezolid based on previous ID consult note
   pt most recently tx with cefepime, levofloxacin, and vanco
   -flu swab taken and tamiflu started
   -send sputum cx, f.u blood cx
   -send blood gas
   -AM CXR, f/u final read on CXR
   -not strictly NPO except important po meds
   -nebs
   -continue Azithromycin for its antimicrobial and antiinflammatory
   effects in bronchiolitis obliterans patients.
   -at previous admission pulm rec tobramycin 4 weeks
   -monthly IVIG
   -likely need intubation given poor ABG
   .
   # CML s/p BMT and Chronic GVHD:
   -consider stress dose steroids IV methylpredisolone Q8h
   -check LFTs
   -cont cellcept
   -on bactrim, acyclovir, and voriconazole for prophylaxis
   .
   # Troponin Leak: Pt has previous elevated troponins. This could be
   demand ischemia but seems unlikely given prev elevated troponins.  EKG
   with no obvious ischemic changes but poor baseline given pt in pain
   duing EKG. Not likely to be ACS had no other cardiac sx beyond SOB
   -cycle CE
   -repeat EKG when pain better controlled
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].- Continue
   home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches,
   morphine IV.
   .
   #. FEN:
   -no IVF for now
   replete electrolytes, NPO except meds
   .
   #. Prophylaxis: Lovenox for PE/DVT tx
   .
   #. Access: peripherals
   .
   #. Code: full
   .
   #. Emergency contact: daughter
   ICU [**Name2 (NI) **]
   Nutrition: NPO for now except meds
   Glycemic Control:
   Lines: 2 peripheral
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: icu for now

2124-09-28 10:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    58 M CML s/p allo SCT c/b GVHD (liver, lung, skin, GI), poor secretion
   clearance/plugging from bronchietasis, multiple pnas with resistant
   organisms, recent admission for pna /resp failure (rx'd
   linezolid/cipro/cefepime) d/c'd on [**9-27**].  Presents w/ dyspnea,
   incresed O2 requirement, secretions, In ED, HD stable, Hypoxic 89% on
   5L--> 100% NRB then weaned to 6L 94%.  CXR with rll pna/atelectasis.
   Given cefepime/levo/vanco/tamiflu, bl cxs drawn and admitted to [**Hospital Unit Name 44**]
   for further care.
   24 Hour Events:
   Suctioned this morning for large amount of thick yellow purulent
   appearing secretions
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-9-28**] 02:02 AM
   Acyclovir - [**2124-9-28**] 04:13 AM
   Vancomycin - [**2124-9-28**] 08:14 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-9-28**] 08:15 AM
   Morphine Sulfate - [**2124-9-28**] 08:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Respiratory: Dyspnea
   Heme / Lymph: Anemia
   Pain: [**11-19**] Minimal
   Flowsheet Data as of  [**2124-9-28**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 74 (73 - 88) bpm
   BP: 114/72(77) {101/54(67) - 115/73(81)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             743 mL
   PO:
             TF:
   IVF:
   743 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    860 mL
   Urine:
   860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Other
   SpO2: 100%
   ABG: 7.35/66/62/33/7
   PaO2 / FiO2: 78
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: left > right),
   patient taking shallow breaths
   Abdominal: Bowel sounds present, Distended, diffuse mild tenderness
   (chronic)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed, excoriations, multiple
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   154 K/uL
   115 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.7 mEq/L
   27 mg/dL
   100 mEq/L
   139 mEq/L
   27.2 %
   3.2 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
   WBC
   3.2
   Hct
   27.2
   Plt
   154
   Cr
   0.7
   TropT
   0.12
   TCO2
   38
   Glucose
   115
   Other labs: CK / CKMB / Troponin-T:15/5/0.12, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Imaging: CXR:  infiltrate right base, opacification of left HD
   Assessment and Plan
   1.  Acute on chronic respiratory failure:  Multifactorial given history
   of GVHD, bronchiectasis, PEs, recurrent pneumonias with resistant
   organisms.  Cough now productive of purulent yellow sputum.  Currently
   on vanco/cefipime/levo,  tamaflu prophylaxis.  DFA pending.  Chest PT,
   suctioning.  Broaden antibiotics guided by review of sensitivities to
   prior infectious etiology. ID to consult.
   2.  CML:  Chronically on prednisone, unable to take pos, will give
   solumedrol IV.  Continue celcept.  Holding prophylactiv bactrim today
   given he is NPO pending speech and swallow exam.
   3.  CAD:  ECG with poor baseline given patient movement.  Troponin 0.12
   albeit chronically elevated.  Doubt ACS, cycle enzymes, repeat ECG.
   4.  DVT:  Continue lovenox.
   5.  Anemia:  Serial CBCs, GAS, PPI while NPO.
   Agree with assessment and plan as per medical ICU housestaff note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-09-29 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: dyspnea
   58 M w/ CML s/p BMT in [**2121**], on lovenox for PEs, has chronic GVHD and
   was recently discharged after hypoxia and intubation in the ICU who
   presented with hypoxia.
   24 Hour Events:
   Breathing about the same, gurgly
   Tried to place PICC, didnt go through, pulled it back to a midline..
   decided to D/C and try for IR-guided PICC placement in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2124-9-28**] 04:58 PM
   Vancomycin - [**2124-9-28**] 07:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-28**] 11:15 PM
   Tobramycin - [**2124-9-29**] 01:18 AM
   Cefipime - [**2124-9-29**] 01:18 AM
   Voriconazole - [**2124-9-29**] 03:03 AM
   Acyclovir - [**2124-9-29**] 03:03 AM
   Bactrim (SMX/TMP) - [**2124-9-29**] 04:12 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-9-28**] 08:15 AM
   Morphine Sulfate - [**2124-9-29**] 06:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 91 (74 - 98) bpm
   BP: 108/56(69) {95/46(59) - 118/72(78)} mmHg
   RR: 14 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  2,675 mL
                                                                    921 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,275 mL
                                                                    921 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                  1,180 mL
   Urine:
                                                                  2,560 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    115 mL
                                                                   -259 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   GENERAL: ill appearing male, talking in full sentence
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.  dry MM. OP clear. Neck Supple, No LAD.
   CARDIAC: very difficult to hear given breath sounds
   LUNGS: gurgling and course rales throughout lungs posteriorly, no
   increased work of breathing of respiratory muscles
   ABDOMEN: +BS. distended. Tender throughout lower abd. No rebound.
   EXTREMITIES: LE equal bilaterally to sacrum.  Unable to palpate DP
   pulses secondary to edema. 2+ radial pulses. Chronic venous stasis of
   lower extremities.
   SKIN: + chronic venous stasis of lower extremities.  blood blisters on
   left hand.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout grossly. 5/5 strength UE And LE. 2+ reflexes in UE.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   133 K/uL
   8.1 g/dL
   217 mg/dL
   0.6 mg/dL
   29 mEq/L
   5.0 mEq/L
   15 mg/dL
   94 mEq/L
   132 mEq/L
   26.5 %
   3.6 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
   WBC
   3.2
   3.6
   Hct
   27.2
   26.5
   Plt
   154
   133
   Cr
   0.7
   0.6
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   Other labs: CK / CKMB / Troponin-T:18/4/0.14, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, resistant pseudomonal infections, and recent
   intubation who presents with respiratory distress and hypoxia.
   .
   # Hypoxic Respiratory Failure: Respiratory distress likely due to PNA.
   WBC 4.5 with one band. Very gurguley and course breath sounds.  Could
   be worse bronchiectasis or bronchiolitis obliterans related to his
   GVHD.  Possible H1N1. Pt has h/o PEs but unlikely given infiltrate on
   CXR.
   -stable on face tent 100%
   -Broad-spectrum abx with cefepime, levofloxacin, vanco.
   -consider changing vanco to linezolid based on previous ID consult note
   pt most recently tx with cefepime, levofloxacin, and vanco
   -flu swab taken and tamiflu started
   -send sputum cx, f.u blood cx
   -send blood gas
   -AM CXR, f/u final read on CXR
   -not strictly NPO except important po meds
   -nebs
   -continue Azithromycin for its antimicrobial and antiinflammatory
   effects in bronchiolitis obliterans patients.
   -at previous admission pulm rec tobramycin 4 weeks
   -monthly IVIG
   -likely need intubation given poor ABG
   .
   # CML s/p BMT and Chronic GVHD:
   -consider stress dose steroids IV methylpredisolone Q8h
   -check LFTs
   -cont cellcept
   -on bactrim, acyclovir, and voriconazole for prophylaxis
   .
   # Troponin Leak: Pt has previous elevated troponins. This could be
   demand ischemia but seems unlikely given prev elevated troponins.  EKG
   with no obvious ischemic changes but poor baseline given pt in pain
   duing EKG. Not likely to be ACS had no other cardiac sx beyond SOB
   -cycle CE
   -repeat EKG when pain better controlled
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].- Continue
   home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches,
   morphine IV.
   .
   #. FEN:
   -no IVF for now
   replete electrolytes, NPO except meds
   .
   #. Prophylaxis: Lovenox for PE/DVT tx
   .
   #. Access: peripherals
   .
   #. Code: full
   .
   #. Emergency contact: daughter
   ICU [**Name2 (NI) **]
   Nutrition: NPO for now except meds
   Glycemic Control:
   Lines: 2 peripheral
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: icu for now

2124-09-29 11:58:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiraotry failure,
   pneumonia/broncheictasis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2124-9-28**] 10:13 AM
 MIDLINE - START [**2124-9-28**] 01:12 PM
   Antibiotics changed per ID recommendations
   Speech and swallow - no aspiration
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2124-9-28**] 04:58 PM
   Vancomycin - [**2124-9-28**] 07:39 PM
   Cefipime - [**2124-9-29**] 01:18 AM
   Voriconazole - [**2124-9-29**] 03:03 AM
   Acyclovir - [**2124-9-29**] 03:03 AM
   Bactrim (SMX/TMP) - [**2124-9-29**] 04:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-29**] 08:00 AM
   Tobramycin - [**2124-9-29**] 09:31 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2124-9-29**] 06:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Cough, Dyspnea
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-29**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 95 (80 - 98) bpm
   BP: 112/64(75) {95/46(59) - 118/71(78)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  2,675 mL
                                                                  1,407 mL
   PO:
                                                                    400 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,275 mL
                                                                  1,167 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                  1,960 mL
   Urine:
                                                                  2,560 mL
                                                                  1,960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    115 mL
                                                                   -553 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   133 K/uL
   217 mg/dL
   0.6 mg/dL
   29 mEq/L
   5.0 mEq/L
   15 mg/dL
   94 mEq/L
   132 mEq/L
   26.5 %
   3.6 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
   WBC
   3.2
   3.6
   Hct
   27.2
   26.5
   Plt
   154
   133
   Cr
   0.7
   0.6
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   Other labs: CK / CKMB / Troponin-T:18/4/0.14, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN); Adequately cotnrolled on
   current regimen.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  Recurent pneumonia.
   Appreicate ID consult, antibiotics changed as reccommended.  Cough
   slightly better, appears more comfortable from a respiratory
   standpoint.  Sputum culture pending.  WBC in normal range. Continue
   nebs. Given higher Fi02 requirement and intermittent dests will
   continue to monitor in the ICU.
 ANEMIA:  Stable hct.  No evidence o factive blood loss.  PPI.
 HYPONATREMIA:  SIADH in setting of lung infection.  Postive fluid
   status yesterday, doesn't appear dry.  Send urine lytes.  Free water
   restriction.  Monitor electrolytes.
 CML:  Continue current management as per medical ICU housestaff note.
   Discuss switching back to po prednisone with oncology team.
 NUTRITION:  Advance diet as tolerated given no aspiration on speech
   and swallow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   Midline - [**2124-9-28**] 01:12 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   Time spent on above: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 91**], MD
   on:[**2124-9-29**] 12:24 ------

2124-09-30 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2124-9-29**] 04:56 PM
 MIDLINE - STOP [**2124-9-29**] 05:00 PM
   ID: Check Tobra peak/trough
   Tobra trough 4.1, peak pending
   BMT: Cont Lovenix 40mg Q12h
   Cont with home dose steroids as well as Cellcept for GVHD
   RUE U/S negative for DVT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-28**] 07:39 PM
   Cefipime - [**2124-9-29**] 01:18 AM
   Linezolid - [**2124-9-29**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-30**] 12:00 AM
   Tobramycin - [**2124-9-30**] 01:30 AM
   Bactrim (SMX/TMP) - [**2124-9-30**] 02:24 AM
   Acyclovir - [**2124-9-30**] 04:30 AM
   Voriconazole - [**2124-9-30**] 04:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-9-29**] 07:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-30**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 109 (84 - 109) bpm
   BP: 109/65(74) {89/42(51) - 118/65(75)} mmHg
   RR: 28 (13 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  2,873 mL
                                                                    974 mL
   PO:
                                                                    440 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,433 mL
                                                                    774 mL
   Blood products:
   Total out:
                                                                  3,260 mL
                                                                    825 mL
   Urine:
                                                                  3,260 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -388 mL
                                                                    149 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///31/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.  dry MM. OP clear. Neck Supple, No LAD.
   CARDIAC: very difficult to hear given breath sounds
   LUNGS: gurgling and course rales throughout lungs posteriorly, no
   increased work of breathing of respiratory muscles
   ABDOMEN: +BS. distended. Tender throughout lower abd. No rebound.
   EXTREMITIES: LE equal bilaterally to sacrum.  Unable to palpate DP
   pulses secondary to edema. 2+ radial pulses. Chronic venous stasis of
   lower extremities.
   SKIN: + chronic venous stasis of lower extremities.  blood blisters on
   left hand.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout grossly. 5/5 strength UE And LE. 2+ reflexes in UE.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   145 K/uL
   7.9 g/dL
   90 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.8 mEq/L
   12 mg/dL
   89 mEq/L
   128 mEq/L
   24.2 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
   WBC
   3.2
   3.6
   4.5
   5.1
   Hct
   27.2
   26.5
   22.4
   24.2
   Plt
   154
   133
   137
   145
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   82
   171
   90
   Other labs: CK / CKMB / Troponin-T:18/4/0.14, Lactic Acid:1.4 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, resistant pseudomonal infections, and recent
   intubation who presents with respiratory distress and hypoxia.
   .
   # Hypoxic Respiratory Failure: Respiratory distress likely due to PNA.
   Somewhat improved lung exam today.  Influenza H1N1 negative. Pt has h/o
   PEs but unlikely given infiltrate on CXR.
   -stable on face tent 40%
   -Broad-spectrum abx with Tobramycin, Bactim, Zosyn and Linezolid
   currently day 2.
   -F/u sputum cx, f.u blood cx
   -nebs
   -monthly IVIG
   .
   # CML s/p BMT and Chronic GVHD:
   -continue Methylprednisolone 10mg Q24hrs
   -cont cellcept
   -on bactrim, acyclovir, and voriconazole for prophylaxis
   .
   # Troponin Leak: Chronically elevated troponins, Cardiac enzymes
   negative/stable  x3.  EKG with no obvious ischemic changes but poor
   baseline given pt in pain duing EKG. Not likely to be ACS had no other
   cardiac sx beyond SOB
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].- Continue
   home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches,
   morphine IV.
   .
   #. FEN:
   -no IVF for now
   replete electrolytes, regular diet, re-start PO home meds now that the
   pt. passed speech and swallow.
   .
   #. Prophylaxis: Lovenox for PE/DVT tx
   .
   #. Access: peripherals
   .
   #. Code: full
   .
   #. Emergency contact: daughter
   ICU [**Name2 (NI) **]
   Nutrition: re-start Regular diet and PO home meds
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: icu for now

2124-09-30 11:40:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2124-9-29**] 04:56 PM
 MIDLINE - STOP [**2124-9-29**] 05:00 PM
   RUE ultrasound negative for DVT
   Deasturated to high 80's requiring increase in high flow neb, improved
   with chest PT
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-28**] 07:39 PM
   Cefipime - [**2124-9-29**] 01:18 AM
   Linezolid - [**2124-9-29**] 04:00 PM
   Bactrim (SMX/TMP) - [**2124-9-30**] 02:24 AM
   Acyclovir - [**2124-9-30**] 04:30 AM
   Voriconazole - [**2124-9-30**] 04:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-9-30**] 08:00 AM
   Tobramycin - [**2124-9-30**] 09:47 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-9-30**] 08:00 AM
   Pantoprazole (Protonix) - [**2124-9-30**] 08:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-9-30**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 98 (84 - 109) bpm
   BP: 106/62(71) {89/42(51) - 118/65(75)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  2,873 mL
                                                                  1,817 mL
   PO:
                                                                    440 mL
                                                                    440 mL
   TF:
   IVF:
                                                                  2,433 mL
                                                                  1,377 mL
   Blood products:
   Total out:
                                                                  3,260 mL
                                                                  1,075 mL
   Urine:
                                                                  3,260 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -388 mL
                                                                    742 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: ), worse air movement
   particularly on right
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, icnreased
   myoclonus
   Labs / Radiology
   7.9 g/dL
   145 K/uL
   90 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.8 mEq/L
   12 mg/dL
   89 mEq/L
   128 mEq/L
   24.2 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
   WBC
   3.2
   3.6
   4.5
   5.1
   Hct
   27.2
   26.5
   22.4
   24.2
   Plt
   154
   133
   137
   145
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   82
   171
   90
   Other labs: CK / CKMB / Troponin-T:18/4/0.14, Lactic Acid:1.4 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Secondary to disc
   comprressions.  Continues home regimen.  Adequately controlled.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  Bronchiectasis, pnuemonia.
   Continues on broad spectrum antibiotics.  No new micro data.  Needs
   chest PT, sucitoning.  Continue to monitor in the ICU. More diminished
   particularly on the right.  CXR.  Out of bed to chair today if
   tolerated.

 MYOCLONUS:  Concerned for early serotonin syndrome on fentanyl and
   linezolid.  Will discuss possibly discontinuing the latter with the ID
   consultants.
 HYPONATREMIA:  Many of his meds are in D5W. Will try to restrict free
   water intake by changing meds to NS.  Serial electrolytes.
 PE/DVT: Continues on lovenox at current dose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-10-01 07:32:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4944**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -noted to have myoclonus on rounds --> d/c'ed linezolid due to concern
   about possible serotonin syndrome
   -d/c'ed Bactrim, linezolid, IV tobramycin
   -started Bactrim at prophylactic dose
   -changed methylprednisolone to PO prednisone
   -got 1 dose of vancomycin, then d/c'ed
   -respiratory used in exsuffilator to help patient clear secretions (did
   not work well)
   -gave Zofran for nausea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2124-9-29**] 01:18 AM
   Linezolid - [**2124-9-29**] 04:00 PM
   Tobramycin - [**2124-9-30**] 09:47 AM
   Bactrim (SMX/TMP) - [**2124-9-30**] 01:03 PM
   Vancomycin - [**2124-9-30**] 02:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-1**] 12:38 AM
   Acyclovir - [**2124-10-1**] 06:19 AM
   Voriconazole - [**2124-10-1**] 06:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-30**] 08:50 AM
   Morphine Sulfate - [**2124-9-30**] 01:04 PM
   Enoxaparin (Lovenox) - [**2124-9-30**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-1**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 105 (91 - 106) bpm
   BP: 132/75(91) {102/51(65) - 132/75(116)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  2,882 mL
                                                                    175 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  2,442 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    425 mL
   Urine:
                                                                  1,895 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    987 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Markedly diminished breath sounds at right base.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   Labs / Radiology
   147 K/uL
   7.6 g/dL
   118 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.4 mEq/L
   10 mg/dL
   89 mEq/L
   127 mEq/L
   23.8 %
   6.0 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
   WBC
   3.2
   3.6
   4.5
   5.1
   6.0
   Hct
   27.2
   26.5
   22.4
   24.2
   23.8
   Plt
   154
   133
   137
   145
   147
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   82
   171
   90
   118
   Other labs: CK / CKMB / Troponin-T:18/4/0.14, ALT / AST:37/31, Alk Phos
   / T Bili:355/0.3, Lactic Acid:1.4 mmol/L, LDH:328 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, resistant pseudomonal infections, and recent
   intubation who presents with respiratory distress and hypoxemia.
   .
   1. ESBL E.COLI PNEUMONIA: Pt now growing ESBL E.coli in Sputum. CXR
   shows opacity in right lung base and base of right upper lobe.
   Influenza H1N1 negative Satting in low 90s on high-flow neb with very
   poor air flow at right base.
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   -Continue Zosyn (currently day 4)
   -albuterol/ipratropium nebs
   -monthly IVIG
   -f/u ID recs
   - HCO3 increasing, will check VBG
   - ? could pt benefit from bipap/cpap at night
   - will d/w Dr. [**Last Name (STitle) 1750**] [**Name (STitle) 10852**] re: IP vs surgery eval for trach placement
   .
   2. CML s/p BMT and Chronic GVHD:
   -change methylprednisolone to prednisone  PO
   -cont cellcept
   -on bactrim, acyclovir, and voriconazole for prophylaxis
   .
   # Troponin Leak: Chronically elevated troponins, Cardiac enzymes
   negative/stable x3.  EKG with no obvious ischemic changes but poor
   baseline given pt in pain duing EKG. Not likely to be ACS had no other
   cardiac sx beyond SOB.
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].- Continue
   home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: re-start Regular diet and PO home meds
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: ICU for now

2124-10-01 11:07:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Grew E. Coli, sensitive to tobra/gent/meropenim/zosyn
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2124-9-29**] 01:18 AM
   Linezolid - [**2124-9-29**] 04:00 PM
   Tobramycin - [**2124-9-30**] 09:47 AM
   Bactrim (SMX/TMP) - [**2124-9-30**] 01:03 PM
   Vancomycin - [**2124-9-30**] 02:15 PM
   Acyclovir - [**2124-10-1**] 06:19 AM
   Voriconazole - [**2124-10-1**] 06:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-1**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2124-9-30**] 01:04 PM
   Enoxaparin (Lovenox) - [**2124-10-1**] 08:30 AM
   Pantoprazole (Protonix) - [**2124-10-1**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, weak
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-10-1**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 108 (94 - 108) bpm
   BP: 129/71(87) {105/51(65) - 132/75(116)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 86%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  2,885 mL
                                                                    371 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  2,445 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    705 mL
   Urine:
                                                                  1,895 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    990 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 86%
   ABG: ///34/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases bilaterally,
   Rhonchorous: ), poor air movement
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, mild myoclonus,
   may be slightly better
   Labs / Radiology
   7.6 g/dL
   147 K/uL
   118 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.4 mEq/L
   10 mg/dL
   89 mEq/L
   127 mEq/L
   23.8 %
   6.0 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
   WBC
   3.2
   3.6
   4.5
   5.1
   6.0
   Hct
   27.2
   26.5
   22.4
   24.2
   23.8
   Plt
   154
   133
   137
   145
   147
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   82
   171
   90
   118
   Other labs: CK / CKMB / Troponin-T:18/4/0.14, ALT / AST:37/31, Alk Phos
   / T Bili:355/0.3, Lactic Acid:1.4 mmol/L, LDH:328 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR:  unchanged given technique and poor inspiratory effort
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Not complaining of pain.
 IMPAIRED SKIN INTEGRITY:  Skin care per nursing.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  Bronchiectasis, recurrent E.
   Coli infection now on zosyn.  Have stopped linexolid, cefipime, tobra,
   and switched to proplylactic bactrim.  Appears to be more fatigued
   today.  Will remain in ICU given tenuous respiratory status.  Will
   discuss benefits for trach to facilitate pulmonary toilet going
   forward, will discuss with oncology.
 HYPONATREMIA:  Euvolemic.  Was getting many meds in D5 which have
   been stopped or changed to NS.  Also may have component of SIADH
   secondary to pulmonary process andor pain.  Free water restriction and
   monitor electrolytes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-10-02 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2124-9-29**] 04:00 PM
   Tobramycin - [**2124-9-30**] 09:47 AM
   Bactrim (SMX/TMP) - [**2124-9-30**] 01:03 PM
   Vancomycin - [**2124-9-30**] 02:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-2**] 12:31 AM
   Acyclovir - [**2124-10-2**] 05:31 AM
   Voriconazole - [**2124-10-2**] 05:31 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-1**] 08:31 AM
   Enoxaparin (Lovenox) - [**2124-10-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-2**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 93 (93 - 116) bpm
   BP: 124/70(83) {97/60(67) - 143/99(116)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                    993 mL
                                                                    339 mL
   PO:
                                                                    350 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    643 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                    430 mL
   Urine:
                                                                  2,160 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,167 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD, NRB
   on
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.  Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   167 K/uL
   7.6 g/dL
   95 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.5 mEq/L
   9 mg/dL
   90 mEq/L
   130 mEq/L
   23.2 %
   5.3 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
   WBC
   3.2
   3.6
   4.5
   5.1
   6.0
   5.3
   Hct
   27.2
   26.5
   22.4
   24.2
   23.8
   23.2
   Plt
   154
   133
   137
   145
   147
   167
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   82
   171
   90
   118
   95
   Other labs: PT / PTT / INR:11.2/32.3/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:37/31, Alk Phos / T Bili:355/0.3,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:328 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, found to have ESBL E. Coli in his sputum
   .
   #. ESBL E.COLI PNEUMONIA. Right lung base and right upper lobe
   infiltrate on X-Ray. Influenza H1N1 negative Satting in low 90s on
   high-flow neb with very poor air flow at right base.
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   -Continue Zosyn (currently day 5)
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
   -f/u ID recs
   - HCO3 stable
   - Discuss with Dr. [**Last Name (STitle) 1750**] [**Name (STitle) 10852**] re: IP vs surgery eval for trach
   placement
   # Hyponatremia
 urine lytes consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue prednisone  PO
   -Continue cellcept
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Regular diet and PO home meds
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: ICU for now
   12:12
   ------ Protected Section ------
   Agree w/ excellent MS IV note above. Continue treatment for ESBL Ecoli
   PNA with Zosyn.  Will discuss Trach placement with Dr. [**Last Name (STitle) 1750**] today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5013**] [**Last Name (NamePattern1) 10865**], MD
   on:[**2124-10-2**] 19:00 ------

2124-10-02 11:49:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   High flow neb
   Intermittent desaturations, improve with suctiioning and chest PT
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2124-9-29**] 04:00 PM
   Tobramycin - [**2124-9-30**] 09:47 AM
   Bactrim (SMX/TMP) - [**2124-9-30**] 01:03 PM
   Vancomycin - [**2124-9-30**] 02:15 PM
   Acyclovir - [**2124-10-2**] 05:31 AM
   Voriconazole - [**2124-10-2**] 05:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-2**] 07:46 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Dyspnea, using accessory muscles
   Pain: [**1-19**] Mild
   Flowsheet Data as of  [**2124-10-2**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 120 (93 - 120) bpm
   BP: 116/78(87) {97/60(67) - 143/99(135)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 84%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                    993 mL
                                                                    562 mL
   PO:
                                                                    350 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    643 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                  1,335 mL
   Urine:
                                                                  2,160 mL
                                                                  1,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,167 mL
                                                                   -773 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 84%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, thin, multiple excoriations
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   167 K/uL
   95 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.5 mEq/L
   9 mg/dL
   90 mEq/L
   130 mEq/L
   23.2 %
   5.3 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:01 AM
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
   WBC
   3.2
   3.6
   4.5
   5.1
   6.0
   5.3
   Hct
   27.2
   26.5
   22.4
   24.2
   23.8
   23.2
   Plt
   154
   133
   137
   145
   147
   167
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   TropT
   0.12
   0.14
   0.14
   TCO2
   38
   Glucose
   115
   217
   82
   171
   90
   118
   95
   Other labs: PT / PTT / INR:11.2/32.3/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:37/31, Alk Phos / T Bili:355/0.3,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:328 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Continue current pain
   regimen.
 IMPAIRED SKIN INTEGRITY:  Skin care per nursing.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  Continues zosyn for E. coli
   in sputum.  Send sputum for repeat gram stain, C & S.  Continues to
   require aggressive chest PT and cough assist.  This patient would
   benefit from a tracheostomy to facilitate pulmonary toilet.  Will
   discuss with BMT service.
 HYPONATREMIA:  Improving with stopping drips with free water.
   Continue to monitor electrolytes. Will run volume sttatus even to
   slightly positive over next 24 hours.
 PE/DVT:  Lovenox.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-10-03 07:53:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4944**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   Got Oseltamivir and droplet precautions because of exposure to H1N1
   Allergies: NKDA
    Last dose of Antibiotics:
   Tobramycin - [**2124-9-30**] 09:47 AM
   Bactrim (SMX/TMP) - [**2124-9-30**] 01:03 PM
   Vancomycin - [**2124-9-30**] 02:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-3**] 12:23 AM
   Acyclovir - [**2124-10-3**] 06:04 AM
   Voriconazole - [**2124-10-3**] 06:04 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-2**] 08:04 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-3**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 103 (85 - 120) bpm
   BP: 122/74(86) {103/63(75) - 144/101(135)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                    936 mL
                                                                    378 mL
   PO:
                                                                    300 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    636 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    775 mL
   Urine:
                                                                  1,910 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -974 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///37/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD, NRB
   on
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   172 K/uL
   7.6 g/dL
   74 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.9 mEq/L
   9 mg/dL
   92 mEq/L
   135 mEq/L
   23.7 %
   5.3 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
   WBC
   3.6
   4.5
   5.1
   6.0
   5.3
   5.3
   Hct
   26.5
   22.4
   24.2
   23.8
   23.2
   23.7
   Plt
   133
   137
   145
   147
   167
   172
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   TropT
   0.14
   0.14
   TCO2
   38
   Glucose
   [**Telephone/Fax (2) 10874**]
   118
   95
   74
   Other labs: PT / PTT / INR:11.0/30.4/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:27/26, Alk Phos / T Bili:342/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:310 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, found to have ESBL E. Coli in his sputum
   .
   #. ESBL E.COLI PNEUMONIA. Right lung base and right upper lobe
   infiltrate on X-Ray. Influenza H1N1 negative Satting in low 90s on
   high-flow neb with very poor air flow at right base.
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   -Continue Zosyn (currently day 6) will end [**10-5**]
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
   -f/u ID recs
   - HCO3 stable
   - further discussion  with Dr. [**Last Name (STitle) 1750**] re: IP vs surgery eval for trach
   placement
   # Hyponatremia
 urine lytes consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue prednisone  PO
   -Continue cellcept
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Regular diet and PO home meds
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: ICU for now

2124-10-03 11:27:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   secretions seem a bit decreased per nursing
   now on droplet percautions given H1N1 exposure
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2124-9-30**] 01:03 PM
   Vancomycin - [**2124-9-30**] 02:15 PM
   Acyclovir - [**2124-10-3**] 06:04 AM
   Voriconazole - [**2124-10-3**] 06:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-3**] 08:31 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-3**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, weak
   Genitourinary: Foley
   Pain: [**11-19**] Minimal
   Flowsheet Data as of  [**2124-10-3**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 96 (85 - 111) bpm
   BP: 129/79(91) {106/63(75) - 144/101(105)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                    936 mL
                                                                    836 mL
   PO:
                                                                    300 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    636 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                  1,525 mL
   Urine:
                                                                  1,910 mL
                                                                  1,525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -974 mL
                                                                   -689 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, multiple excoriations
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   172 K/uL
   74 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.9 mEq/L
   9 mg/dL
   92 mEq/L
   135 mEq/L
   23.7 %
   5.3 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:56 AM
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
   WBC
   3.6
   4.5
   5.1
   6.0
   5.3
   5.3
   Hct
   26.5
   22.4
   24.2
   23.8
   23.2
   23.7
   Plt
   133
   137
   145
   147
   167
   172
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   TropT
   0.14
   0.14
   TCO2
   38
   Glucose
   [**Telephone/Fax (2) 10874**]
   118
   95
   74
   Other labs: PT / PTT / INR:11.0/30.4/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:27/26, Alk Phos / T Bili:342/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:310 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Controlled on pain
   regimen.
 DVT/PE:  On lovenox.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  E. Coli pneumonia on abx.
   Secretions somewhat improved.  Requiring 60% HFFM and frequent
   pulmonary toilet.  Continue to monitor in ICU.  Out of bed to chair.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-10-04 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -BMT recommended repeat CT chest to evaluate for GVH exacerbation;
   ordered; however, at this point the patient
s respiratory status
   prevents him from lying flat for extended periods of time.  Will
   perform when respiratory status improves.
   -increased steroids to prednisone 60 mg PO daily per BMT recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-3**] 06:04 AM
   Voriconazole - [**2124-10-3**] 06:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-4**] 12:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-4**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 93 (93 - 122) bpm
   BP: 112/73(83) {104/66(77) - 145/109(112)} mmHg
   RR: 22 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  1,704 mL
                                                                    294 mL
   PO:
                                                                  1,030 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    674 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                    220 mL
   Urine:
                                                                  2,655 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -951 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97% on 50% face mask
   ABG: ///39/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD, NRB
   on
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   215 K/uL
   7.8 g/dL
   75 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.7 mEq/L
   9 mg/dL
   93 mEq/L
   136 mEq/L
   24.5 %
   5.6 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
   WBC
   3.6
   4.5
   5.1
   6.0
   5.3
   5.3
   5.6
   Hct
   26.5
   22.4
   24.2
   23.8
   23.2
   23.7
   24.5
   Plt
   133
   137
   145
   147
   167
   172
   215
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   TropT
   0.14
   0.14
   Glucose
   [**Telephone/Fax (2) 10874**]
   118
   95
   74
   75
   Other labs: PT / PTT / INR:11.0/30.4/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:27/26, Alk Phos / T Bili:342/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:310 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, found to have ESBL E. Coli in his sputum
   .
   #. ESBL E.COLI PNEUMONIA. Right lung base and right upper lobe
   infiltrate on X-Ray. Influenza H1N1 DFA negative.  Continues to sat in
   mid-90s on 50% face mask.
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   -Continue Zosyn (currently day 7).  Will discuss Abx course with ID.
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
   -f/u ID recs
   - HCO3 stable
   - further discussion  with Dr. [**Last Name (STitle) 1750**] re: IP vs surgery eval for trach
   placement
   -Continue prophylactic Tamiflu and respiratory precautions given
   exposure for 7 days
   -OOB as tolerated
   -d/c Foley
   # Hyponatremia
 resolving, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with 60mg prednisone  PO daily
   -Continue cellcept
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -Hold off chest CT for now as the pt. cannot tolerate lying flat due to
   respiratory status
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - Pain consult
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Regular diet and PO home meds; replete lytes PRN
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: ICU for now

2124-10-04 12:08:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Out of bed to chair yesterday and again this morning
   Increased steroids as per BMT empirically for possible GVHD
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-3**] 06:04 AM
   Voriconazole - [**2124-10-3**] 06:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-4**] 08:14 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-4**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: [**1-19**] Mild
   Pain location: back
   Flowsheet Data as of  [**2124-10-4**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 99 (93 - 122) bpm
   BP: 116/74(84) {104/66(77) - 145/109(112)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  1,704 mL
                                                                    764 mL
   PO:
                                                                  1,030 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    674 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                    900 mL
   Urine:
                                                                  2,655 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -951 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: ), less rhonchorous
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   215 K/uL
   75 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.7 mEq/L
   9 mg/dL
   93 mEq/L
   136 mEq/L
   24.5 %
   5.6 K/uL
        [image002.jpg]
                            [**2124-9-28**]  04:34 PM
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
   WBC
   3.6
   4.5
   5.1
   6.0
   5.3
   5.3
   5.6
   Hct
   26.5
   22.4
   24.2
   23.8
   23.2
   23.7
   24.5
   Plt
   133
   137
   145
   147
   167
   172
   215
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   TropT
   0.14
   0.14
   Glucose
   [**Telephone/Fax (2) 10874**]
   118
   95
   74
   75
   Other labs: PT / PTT / INR:11.0/30.4/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:27/26, Alk Phos / T Bili:342/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:310 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Intermittent break through
   pain.
 IMPAIRED SKIN INTEGRITY:  Skin care as per nursing.
 RESPIRATORY FAILURE, ACUTE CHRONIC: Secondary to GVHD, bronchiectasis
   recurrent pneumonia growing E.Coli.  Completing antibiotic course as
   per ID consult recommendations.  On Tamiflu for recent exposure in the
   ICU.  DFA negative.  BMT requested empiric increase in solumedrol for
   GVHD and CT of chest to evaluate for pleural effusions or evidence of
   active GVHD.  He is unable at this time to lay down for CT and still
   tenuous from a pulmonary standpoint so unable to go down for this.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-10-05 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   The patient continued to steroid taper per BMT recs -- 60mg pred
   x2days, then 40mg x2 days, then 30 x2 and 20 x2.
   This AM, the pt. reports that breathing is getting slightly better.
   Chronic pain is [**3-21**], unchanged from yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-3**] 06:04 AM
   Voriconazole - [**2124-10-3**] 06:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-4**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-5**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 103 (94 - 109) bpm
   BP: 118/65(96) {98/65(77) - 137/87(101)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 72.1 kg
             Total In:
                                                                  1,507 mL
                                                                    409 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    667 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                  1,150 mL
   Urine:
                                                                  1,100 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    407 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///37/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD, NRB
   on
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   238 K/uL
   8.1 g/dL
   69 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.7 mEq/L
   8 mg/dL
   95 mEq/L
   139 mEq/L
   25.5 %
   5.3 K/uL
        [image002.jpg]
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
   WBC
   3.6
   4.5
   5.1
   6.0
   5.3
   5.3
   5.6
   5.3
   Hct
   26.5
   22.4
   24.2
   23.8
   23.2
   23.7
   24.5
   25.5
   Plt
   133
   137
   145
   147
   167
   172
   215
   238
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   0.5
   TropT
   0.14
   Glucose
   [**Telephone/Fax (2) 10874**]
   118
   95
   74
   75
   69
   Other labs: PT / PTT / INR:11.3/28.4/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:27/26, Alk Phos / T Bili:342/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:310 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, found to have ESBL E. Coli in his sputum
   .
   #. ESBL E.COLI PNEUMONIA. Right lung base and right upper lobe
   infiltrate on X-Ray. Influenza H1N1 DFA negative.  Continues to sat in
   mid-90s on 50% face mask.
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   -Continue Zosyn (currently day 8 of 8).
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
   -f/u ID recs
   - HCO3 stable
   - further discussion  with Dr. [**Last Name (STitle) 1750**] re: IP vs surgery eval for trach
   placement
   -Continue prophylactic Tamiflu and respiratory precautions given
   exposure for 7 days
   -OOB as tolerated
   -d/c Foley
   # Hyponatremia
 resolving, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with PO prednisone  taper per BMT recs
   -Continue cellcept
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -Hold off chest CT for now as the pt. cannot tolerate lying flat due to
   respiratory status
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - Pain consult
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Regular diet and PO home meds; replete lytes PRN
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: ICU for now

2124-10-05 12:11:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Steroid taper for empiric treatment of component of GVHD
   Suctioned once overnight and this morning for scant  secretions
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-3**] 06:04 AM
   Voriconazole - [**2124-10-3**] 06:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 08:12 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-5**] 08:12 AM
   Pantoprazole (Protonix) - [**2124-10-5**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: [**3-22**] Moderate
   Flowsheet Data as of  [**2124-10-5**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 108 (94 - 113) bpm
   BP: 109/94(98) {98/65(74) - 137/94(101)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.2 kg (admission): 72.1 kg
             Total In:
                                                                  1,507 mL
                                                                  1,091 mL
   PO:
                                                                    840 mL
                                                                    700 mL
   TF:
   IVF:
                                                                    667 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                  1,150 mL
   Urine:
                                                                  1,100 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    407 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///37/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: less
   so)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, multiple excoriations
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, appears tired
   Labs / Radiology
   8.1 g/dL
   238 K/uL
   69 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.7 mEq/L
   8 mg/dL
   95 mEq/L
   139 mEq/L
   25.5 %
   5.3 K/uL
        [image002.jpg]
                            [**2124-9-28**]  07:59 PM
                            [**2124-9-29**]  03:38 AM
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
   WBC
   3.6
   4.5
   5.1
   6.0
   5.3
   5.3
   5.6
   5.3
   Hct
   26.5
   22.4
   24.2
   23.8
   23.2
   23.7
   24.5
   25.5
   Plt
   133
   137
   145
   147
   167
   172
   215
   238
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   0.5
   TropT
   0.14
   Glucose
   [**Telephone/Fax (2) 10874**]
   118
   95
   74
   75
   69
   Other labs: PT / PTT / INR:11.3/28.4/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:27/26, Alk Phos / T Bili:342/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:310 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN);  Appreciate pain consult
   input to try to optimize pain management given it is a balance between
   pain management and not suppressing his respiratory drive.
 IMPAIRED SKIN INTEGRITY:  Skin care per nursing.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  GVHD, bronchiectasis,
   recurrent pneumonia growing E. Coli.  Continues zosyn.  Steroid taper
   as per BMT service following along.  Secretions seemed to be minimal at
   this point, requiring less frequent suctioning.  Out of bed to chair as
   tolerated.  Continue nebs.  Continues on droplet precautions and
   tamiflu x 7 days for influenza exposure here in the ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-10-06 08:07:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4944**] PROGRESS NOTE
   Chief Complaint: difficulty breathing
   24 Hour Events:
   -Foley had to be re-inserted as the pt. was not able to void on his
   own.
   -Bleeding from an eschar on his back...Hct down 2 points to 23.5, so
   will re-check
   -On steroid taper per BMT recs
   Allergies: NKDA
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 04:32 PM
   Acyclovir - [**2124-10-6**] 05:40 AM
   Voriconazole - [**2124-10-6**] 05:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-5**] 08:12 AM
   Enoxaparin (Lovenox) - [**2124-10-5**] 08:00 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-6**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 89 (87 - 116) bpm
   BP: 137/81(93) {98/57(67) - 141/94(103)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 72.1 kg
             Total In:
                                                                  2,096 mL
                                                                     83 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                  1,166 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    290 mL
   Urine:
                                                                  1,900 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    196 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///40/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD, NRB
   on
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   228 K/uL
   7.8 g/dL
   124 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.6 mEq/L
   10 mg/dL
   95 mEq/L
   140 mEq/L
   24.0 %
   5.5 K/uL
        [image002.jpg]
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
   WBC
   4.5
   5.1
   6.0
   5.3
   5.3
   5.6
   5.3
   5.5
   Hct
   22.4
   24.2
   23.8
   23.2
   23.7
   24.5
   25.5
   23.5
   24.0
   Plt
   137
   145
   147
   167
   172
   215
   238
   228
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   0.5
   0.5
   Glucose
   82
   171
   90
   118
   95
   74
   75
   69
   124
   Other labs: PT / PTT / INR:11.2/28.7/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/20, Alk Phos / T Bili:375/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:277 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   58 year old male w past medical history of CML s/p BMT in [**2121**] on
   chronic immunosuppression with recent hospitalizations for his
   bronchiolitis obliterans, found to have ESBL E. Coli in his sputum
   .
   1. ESBL E.COLI PNEUMONIA. Right lung base and right upper lobe
   infiltrate on X-Ray. Influenza H1N1 DFA negative.  Continues to sat in
   mid-90s on 50% face mask, easily desats when positioning mask, moving
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   - finished 8 day course of zosyn
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
   -f/u ID recs
   - further discussion  with Dr. [**Last Name (STitle) 1750**] re: IP vs surgery eval for trach
   placement
   -Continue prophylactic Tamiflu and respiratory precautions given
   exposure for 7 days (to end [**10-8**])
   -OOB as tolerated
   -d/c Foley
   2. HYPONATREMIA
 resolving, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with PO prednisone  taper per BMT recs
   -Continue cellcept
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -Hold off chest CT for now as the pt. cannot tolerate lying flat due to
   respiratory status
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral Fractures
   - Pain consult
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Regular diet and PO home meds; replete lytes PRN
   Glycemic Control:
   Lines: 2 peripherals
   18 Gauge - [**2124-9-27**] 11:17 PM
   20 Gauge - [**2124-9-27**] 11:18 PM
   MIDLINE
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  daughter is HCP
   [**Name (NI) 66**] status: full
   Disposition: ICU for now, screen for LTAC

2124-10-06 10:57:00 Physician Attending Progress Note
Chief Complaint: acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Foley replaced given urinary retention
   Intermittent desaturations requiring suctioning
   Sitting up in chair on rounds
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 04:32 PM
   Voriconazole - [**2124-10-6**] 05:40 AM
   Acyclovir - [**2124-10-6**] 05:40 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**1-19**] Mild
   Flowsheet Data as of  [**2124-10-6**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 89 (87 - 116) bpm
   BP: 137/81(93) {98/57(67) - 141/90(103)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.9 kg (admission): 72.1 kg
             Total In:
                                                                  2,096 mL
                                                                    109 mL
   PO:
                                                                    930 mL
             TF:
   IVF:
                                                                  1,166 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    290 mL
   Urine:
                                                                  1,900 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    196 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///40/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), moving a bit more
   air today
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, multiple excoriations
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   228 K/uL
   124 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.6 mEq/L
   10 mg/dL
   95 mEq/L
   140 mEq/L
   24.0 %
   5.5 K/uL
        [image002.jpg]
                            [**2124-9-29**]  03:07 PM
                            [**2124-9-30**]  04:10 AM
                            [**2124-9-30**]  05:46 AM
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
   WBC
   4.5
   5.1
   6.0
   5.3
   5.3
   5.6
   5.3
   5.5
   Hct
   22.4
   24.2
   23.8
   23.2
   23.7
   24.5
   25.5
   23.5
   24.0
   Plt
   137
   145
   147
   167
   172
   215
   238
   228
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.4
   0.5
   0.5
   0.5
   Glucose
   82
   171
   90
   118
   95
   74
   75
   69
   124
   Other labs: PT / PTT / INR:11.2/28.7/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/20, Alk Phos / T Bili:375/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:277 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 TRANSFERS, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Stable pain control on
   current regimen.
 IMPAIRED SKIN INTEGRITY:  Wound care following.
 RESPIRATORY FAILURE,ACTUE ON CHRONIC:  Slowly resolving E. Coli
   pneumonia treated with course of zosyn.  Still tenuous from a
   respiratory standpoint given underlying GVHD, bronchiectasis.
   Completing steroid taper for empiric treatment of GVHD as per BMT
   service.  Completing 7 day course of Tamiflu today. Continues on
   droplet precautions.  Requiring frequent suctioning for chronic
   secretions.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2124-10-07 07:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 04:32 PM
   Acyclovir - [**2124-10-6**] 05:40 AM
   Voriconazole - [**2124-10-6**] 05:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-6**] 08:48 AM
   Enoxaparin (Lovenox) - [**2124-10-6**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-7**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 87 (87 - 113) bpm
   BP: 122/81(91) {87/68(72) - 132/88(94)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.3 kg (admission): 72.1 kg
             Total In:
                                                                  1,025 mL
                                                                    900 mL
   PO:
                                                                    740 mL
                                                                    280 mL
   TF:
   IVF:
                                                                    285 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    201 mL
   Urine:
                                                                    500 mL
                                                                    201 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   291 K/uL
   119 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.5 mEq/L
   14 mg/dL
   95 mEq/L
   140 mEq/L
   26.4 %
   7.1 K/uL
        [image002.jpg]
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
   WBC
   6.0
   5.3
   5.3
   5.6
   5.3
   5.5
   7.1
   Hct
   23.8
   23.2
   23.7
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   Plt
   147
   167
   172
   [**Telephone/Fax (3) 10900**]
   291
   Cr
   0.6
   0.6
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   118
   95
   74
   75
   69
   124
   119
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:320 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2124-10-07 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Desat again yesterday
   Feeling OK this AM, no ongoing dyspnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 04:32 PM
   Acyclovir - [**2124-10-6**] 05:40 AM
   Voriconazole - [**2124-10-6**] 05:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-6**] 08:48 AM
   Enoxaparin (Lovenox) - [**2124-10-6**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-7**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 87 (87 - 113) bpm
   BP: 122/81(91) {87/68(72) - 132/88(94)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.3 kg (admission): 72.1 kg
             Total In:
                                                                  1,025 mL
                                                                    900 mL
   PO:
                                                                    740 mL
                                                                    280 mL
   TF:
   IVF:
                                                                    285 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    201 mL
   Urine:
                                                                    500 mL
                                                                    201 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///38/
   Physical Examination
   Comfortable, no distress
   Heent unremarkable
   Neck supple
   Hrt rrr
   Lungs diffuse crackles and wheezes
   Abd benign
   Extrem 2+ edema
   Labs / Radiology
   8.6 g/dL
   291 K/uL
   119 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.5 mEq/L
   14 mg/dL
   95 mEq/L
   140 mEq/L
   26.4 %
   7.1 K/uL
        [image002.jpg]
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
   WBC
   6.0
   5.3
   5.3
   5.6
   5.3
   5.5
   7.1
   Hct
   23.8
   23.2
   23.7
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   Plt
   147
   167
   172
   [**Telephone/Fax (3) 10900**]
   291
   Cr
   0.6
   0.6
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   118
   95
   74
   75
   69
   124
   119
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:320 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   Resp distress due to secretions in setting pna, bronch obliterans,
   weakness
 continues to desaturate
 cont suctioning, cont nebs and
   prednisone, restart [**Female First Name (un) **] nebs
   s/p allo-SCT, GVHD
 cont. immunosuppression  with slow prednisone
   taper
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 fentanyl, lidocaine,
   morphine
   ICU Care
   Nutrition: po
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :  ok to transfer to LTAC

2124-10-07 14:52:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4944**] PROGRESS NOTE
   Chief Complaint: respiratory distress
   24 Hour Events:
   -had transient desats [**12-20**] secretions
   -urine output low --> gave 250 cc NS bolus + ordered urine lytes/UA
   -got wrong dose dose of CellCept in p.m. (got 500 mg, was supposed to
   get 250 mg)
   Allergies: NKDA
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 04:32 PM
   Acyclovir - [**2124-10-6**] 05:40 AM
   Voriconazole - [**2124-10-6**] 05:40 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-6**] 08:08 PM
   other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-7**] 02:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 108 (87 - 108) bpm
   BP: 93/70(76) {93/69(76) - 131/88(108)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.3 kg (admission): 72.1 kg
             Total In:
                                                                  1,025 mL
                                                                  1,089 mL
   PO:
                                                                    740 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    285 mL
                                                                    689 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    246 mL
   Urine:
                                                                    500 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    843 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///38/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD, NRB
   on
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   291 K/uL
   8.6 g/dL
   119 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.5 mEq/L
   14 mg/dL
   95 mEq/L
   140 mEq/L
   26.4 %
   7.1 K/uL
        [image002.jpg]
                            [**2124-10-1**]  04:34 AM
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
   WBC
   6.0
   5.3
   5.3
   5.6
   5.3
   5.5
   7.1
   Hct
   23.8
   23.2
   23.7
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   Plt
   147
   167
   172
   [**Telephone/Fax (3) 10900**]
   291
   Cr
   0.6
   0.6
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   118
   95
   74
   75
   69
   124
   119
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, LDH:320 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   58 yo M w/ CML s/p BMT in [**2121**] on chronic immunosuppression w/ recent
   hospitalizations for BOOP, here w/ ESBL E. Coli PNA.
   .
   1. ESBL E.COLI PNEUMONIA. Right lung base and right upper lobe
   infiltrate on X-Ray. Influenza H1N1 DFA negative.  Continues to sat in
   mid-90s on 50% face mask, easily desats when positioning mask, moving
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   - finished 8 day course of zosyn
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
   - further discussion  with Dr. [**Last Name (STitle) 1750**] re: IP vs surgery eval for trach
   placement
   -Continue prophylactic Tamiflu and respiratory precautions given
   exposure for 7 days (to end [**10-8**])
   -OOB as tolerated
   - Needs to be on inhaled tobramycin- 4 weeks on, 4 weeks off
   - will switch IV meds to PO
   2. HYPONATREMIA
 resolving, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with PO prednisone  taper per BMT recs (currently at 40mg/
   day)
   - once weaned to 20mg prednisone/ day, will need to remain on this dose
   -Continue cellcept  (change IV to PO)
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral [**Name (NI) 10902**] pt not consistent w/ pain assessment
   but states pain is well-controlled, only exacerbated with movement
   - Pain service has s/o, appreciate recs
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Reg diet, PO home meds, replete lytes PRN
   Glycemic Control:  none
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   2 Peripherals
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments: daughter who is HCP
   [**Name (NI) 66**] status: FULL
   Disposition: ICU for now, being screened for LTACH

2124-10-08 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Small IVF boluses due to poor UOP
   -Sats improved, currently on nasal canula
   -Re-started on inhaled on Tobramycin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 04:32 PM
   Acyclovir - [**2124-10-6**] 05:40 AM
   Voriconazole - [**2124-10-6**] 05:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-8**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 97 (87 - 109) bpm
   BP: 135/78(92) {93/64(73) - 146/88(108)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.3 kg (admission): 72.1 kg
             Total In:
                                                                  1,977 mL
                                                                    718 mL
   PO:
                                                                  1,120 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    857 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                    561 mL
                                                                    190 mL
   Urine:
                                                                    561 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,416 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full senetences, NAD, NRB
   on
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   291 K/uL
   7.8 g/dL
   188 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.7 mEq/L
   15 mg/dL
   98 mEq/L
   140 mEq/L
   24.1 %
   7.3 K/uL
        [image002.jpg]
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
   WBC
   5.3
   5.3
   5.6
   5.3
   5.5
   7.1
   7.3
   Hct
   23.2
   23.7
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   Plt
   167
   172
   215
   238
   228
   291
   291
   Cr
   0.6
   0.4
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   95
   74
   75
   69
   124
   119
   188
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   58 yo M w/ CML s/p BMT in [**2121**] on chronic immunosuppression w/ recent
   hospitalizations for BOOP, here w/ ESBL E. Coli PNA.
   .
   1. ESBL E.COLI PNEUMONIA. Right lung base and right upper lobe
   infiltrate on X-Ray. Influenza H1N1 DFA negative.  Continues to sat in
   mid-90s on 50% face mask, easily desats when positioning mask, moving
   -Wean O2 as tolerated
   -Chest PT, help patient clear secretions
   - finished 8 day course of zosyn
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
   - further discussion  with Dr. [**Last Name (STitle) 1750**] re: IP vs surgery eval for trach
   placement
   -Continue prophylactic Tamiflu and respiratory precautions given
   exposure for 7 days (to end [**10-8**])
   -OOB as tolerated
   - Needs to be on inhaled tobramycin- 4 weeks on, 4 weeks off
   - will switch IV meds to PO
   2. HYPONATREMIA
 resolving, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with PO prednisone  taper per BMT recs (currently at 40mg/
   day)
   - once weaned to 20mg prednisone/ day, will need to remain on this dose
   -Continue cellcept  (change IV to PO)
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral [**Name (NI) 10902**] pt not consistent w/ pain assessment
   but states pain is well-controlled, only exacerbated with movement
   - Pain service has s/o, appreciate recs
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Reg diet, PO home meds, replete lytes PRN
   Glycemic Control:  none
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   2 Peripherals
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments: daughter who is HCP
   [**Name (NI) 66**] status: FULL
   Disposition: ICU for now, being screened for LTACH

2124-10-08 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-5**] 04:32 PM
   Acyclovir - [**2124-10-6**] 05:40 AM
   Voriconazole - [**2124-10-6**] 05:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-8**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 97 (87 - 109) bpm
   BP: 135/78(92) {93/64(73) - 146/88(108)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.3 kg (admission): 72.1 kg
             Total In:
                                                                  1,977 mL
                                                                    721 mL
   PO:
                                                                  1,120 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    857 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                    561 mL
                                                                    190 mL
   Urine:
                                                                    561 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,416 mL
                                                                    531 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   291 K/uL
   188 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.7 mEq/L
   15 mg/dL
   98 mEq/L
   140 mEq/L
   24.1 %
   7.3 K/uL
        [image002.jpg]
                            [**2124-10-2**]  04:54 AM
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
   WBC
   5.3
   5.3
   5.6
   5.3
   5.5
   7.1
   7.3
   Hct
   23.2
   23.7
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   Plt
   167
   172
   215
   238
   228
   291
   291
   Cr
   0.6
   0.4
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   95
   74
   75
   69
   124
   119
   188
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Resp distress due to secretions in setting pna, bronch obliterans,
   weakness
 continues to desaturate
 cont suctioning, cont nebs and
   prednisone, restart [**Female First Name (un) **] nebs
   s/p allo-SCT, GVHD
 cont. immunosuppression  with slow prednisone
   taper
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 fentanyl, lidocaine,
   morphine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2124-10-09 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Doing well on 4L NC this afternoon.
   -No new recs per BMT.  [**Month (only) 60**] be able to go upstairs tomorrow if no LTACH
   by then.
   -Ordered 250cc NS bolus for low UOP at night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-9**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 92 (86 - 113) bpm
   BP: 132/80(93) {102/66(75) - 162/83(94)} mmHg
   RR: 21 (11 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.3 kg (admission): 72.1 kg
             Total In:
                                                                  1,630 mL
                                                                    154 mL
   PO:
                                                                    760 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    870 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    210 mL
   Urine:
                                                                    520 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,110 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full sentences, NAD.
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   NEURO: Myoclonic jerks in his upper extremities, infrequent, but
   present during exam
   Labs / Radiology
   289 K/uL
   7.8 g/dL
   104 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.0 mEq/L
   20 mg/dL
   101 mEq/L
   141 mEq/L
   24.8 %
   8.0 K/uL
        [image002.jpg]
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
                            [**2124-10-9**]  03:49 AM
   WBC
   5.3
   5.6
   5.3
   5.5
   7.1
   7.3
   8.0
   Hct
   23.7
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   24.8
   Plt
   172
   215
   238
   [**Telephone/Fax (3) 10912**]
   289
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   Glucose
   74
   75
   69
   124
   119
   188
   104
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   58 yo M w/ CML s/p BMT in [**2121**] on chronic immunosuppression w/ recent
   hospitalizations for BOOP, here w/ ESBL E. Coli PNA.
   .
   1. RESPIRATORY STATUS s/p ESBL E.coli PNA:  Improved oxygen
   requirements today, satting well on 4 liters nasal canula.  Finished
   course of Tamiflu, off Droplet precautions.  Completed 8 day course of
   Zosyn for ESBL E.coli PNA.
   -Wean O2 as tolerated
   -Physical therapy
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
    -OOB as tolerated
   - Continue on inhaled tobramycin- 4 weeks on, 4 weeks off
   2. HYPONATREMIA
 resolving, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with PO prednisone  taper per BMT recs (currently at 40mg/
   day)
   - once weaned to 20mg prednisone/ day, will need to remain on this dose
   -Continue cellcept  (change IV to PO)
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose lovenox 40mg [**Hospital1 **]
   .
   # Multiple Vertebral [**Name (NI) 10902**] pt not consistent w/ pain assessment
   but states pain is well-controlled, only exacerbated with movement
   - Pain service has signed off.
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Reg diet, PO home meds, replete lytes PRN
   Glycemic Control:  none
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   2 Peripherals
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments: daughter who is HCP
   [**Name (NI) 66**] status: FULL
   Disposition: ICU for now, being screened for LTACH

2124-10-09 10:48:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Maintained on 4 lpm O2 support
   -Patient subjectively improved
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-9**] 08:27 AM
   Bactrim (SMX/TMP) - [**2124-10-9**] 08:29 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-9**] 08:27 AM
   Pantoprazole (Protonix) - [**2124-10-9**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2124-10-9**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 86 (84 - 113) bpm
   BP: 122/74(84) {102/66(75) - 140/83(93)} mmHg
   RR: 14 (11 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.3 kg (admission): 72.1 kg
             Total In:
                                                                  1,630 mL
                                                                    643 mL
   PO:
                                                                    760 mL
                                                                    590 mL
   TF:
   IVF:
                                                                    870 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    270 mL
   Urine:
                                                                    520 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,110 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   rare--bases, Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   289 K/uL
   104 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.0 mEq/L
   20 mg/dL
   101 mEq/L
   141 mEq/L
   24.8 %
   8.0 K/uL
        [image002.jpg]
                            [**2124-10-3**]  04:10 AM
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
                            [**2124-10-9**]  03:49 AM
   WBC
   5.3
   5.6
   5.3
   5.5
   7.1
   7.3
   8.0
   Hct
   23.7
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   24.8
   Plt
   172
   215
   238
   [**Telephone/Fax (3) 10912**]
   289
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   Glucose
   74
   75
   69
   124
   119
   188
   104
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: AG-6
   Assessment and Plan
   58 yo male s/p BMT admit with pneumonia and now has been treated with 8
   day course of antibiotics and has shown slow improvement in hypoxemia.
   Importantly--patient able to speak in full sentences and notes
   subjective improvement in dyspnea and has been maintained on nasal
   cannula O2.  Interestingly patient does have marked elevation in HCO3-.
   1)Respiratory Failure-Much improved wtih stable O2 requirement across
   time and with continued pulmonary toilet has been able to maintain
   reasonable stability with nasal cannula O2 only.  The issue is that
   patient will have persistent ventilatory compromise and will likely
   need continued aggressive suctioning and intermittent positive pressure
   ventilatory support and use of the MIE.  OOB to chair will be important
   over time.
   -Continue nebs
   -Continue intermittent suctioning as needed going forward
as this will
   be requirement to maintain stability
   -MIE as tolerated
   -Consider NIV support at night of patient able.
   2)CML--s/p Transplant s/b GVHD
   -Continue with pain control regimen
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor/rehab if tolerated on NC continued
   through to today
   Total time spent: 40 minutes

2124-10-10 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -restarted metoprolol at lower dose (25 mg PO BID)
   -repeat CXR showed RML and RLL collapse -> discuss with respiratory
   therapy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-9**] 08:27 AM
   Bactrim (SMX/TMP) - [**2124-10-9**] 08:29 AM
   Voriconazole - [**2124-10-10**] 06:09 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-9**] 08:27 AM
   Enoxaparin (Lovenox) - [**2124-10-9**] 08:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-10**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 79 (74 - 102) bpm
   BP: 113/70(80) {91/57(66) - 140/96(101)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.8 kg (admission): 72.1 kg
                  Total In:
                                                                  1,405 mL
                                                                    120 mL
   PO:
                                                                  1,370 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     35 mL
   Blood products:
   Total out:
                                                                    782 mL
                                                                    276 mL
   Urine:
                                                                    782 mL
                                                                    276 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    623 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   GENERAL: ill appearing male, able to talk in full sentences, NAD.
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.
   Using accessory muscles, with paradoxical breathing.
   ABDOMEN: +BS. Soft. Mildly distended. Tender, especially in lower abd.
   No rebound/guarding.
   EXTREMITIES: Bilateral LE edema.
   Labs / Radiology
   276 K/uL
   7.6 g/dL
   102 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.4 mEq/L
   20 mg/dL
   103 mEq/L
   143 mEq/L
   23.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
                            [**2124-10-9**]  03:49 AM
                            [**2124-10-10**]  03:58 AM
   WBC
   5.6
   5.3
   5.5
   7.1
   7.3
   8.0
   8.4
   Hct
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   24.8
   23.8
   Plt
   [**Telephone/Fax (3) 10924**]91
   291
   289
   276
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.4
   Glucose
   75
   69
   124
   119
   188
   104
   102
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   58 yo M w/ CML s/p BMT in [**2121**] on chronic immunosuppression w/ recent
   hospitalizations for BOOP, here w/ ESBL E. Coli PNA.
   .
   1. RESPIRATORY STATUS s/p ESBL E.coli PNA:  Improved oxygen
   requirements today, satting well on 4 liters nasal canula.  Finished
   course of Tamiflu, off Droplet precautions.  Completed 8 day course of
   Zosyn for ESBL E.coli PNA.
   -Wean O2 as tolerated
   -Physical therapy
   -Continue albuterol/ipratropium nebs
   -monthly IVIG
    -OOB as tolerated
   - Continue on inhaled tobramycin- 4 weeks on, 4 weeks off
   2. HYPONATREMIA
 resolving, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with PO prednisone  taper per BMT recs (currently at 40mg/
   day)
   - once weaned to 20mg prednisone/ day, will need to remain on this dose
   -Continue cellcept  (change IV to PO)
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].-
   -Continue home dose Lovenox 40mg [**Hospital1 **]
   -Re-start outpatient Metoprolol
   .
   # Multiple Vertebral [**Name (NI) 10902**] pt not consistent w/ pain assessment
   but states pain is well-controlled, only exacerbated with movement
   - Pain service has signed off.
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Reg diet, PO home meds, replete lytes PRN
   Glycemic Control:  none
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments: daughter who is HCP
   [**Name (NI) 66**] status: FULL
   Disposition: ICU for now, being screened for LTACH

2124-10-10 12:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient maintained on O2 a 4 lpm NC
   Patient with chest PT limited by pain
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-10-10**] 06:09 AM
   Acyclovir - [**2124-10-10**] 08:32 AM
   Bactrim (SMX/TMP) - [**2124-10-10**] 08:32 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-10**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2124-10-10**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 86 (70 - 95) bpm
   BP: 116/63(76) {91/57(66) - 140/88(95)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.8 kg (admission): 72.1 kg
                  Total In:
                                                                  1,405 mL
                                                                    360 mL
   PO:
                                                                  1,370 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     35 mL
   Blood products:
   Total out:
                                                                    782 mL
                                                                    416 mL
   Urine:
                                                                    782 mL
                                                                    416 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    623 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   276 K/uL
   102 mg/dL
   0.4 mg/dL
   37 mEq/L
   4.4 mEq/L
   20 mg/dL
   103 mEq/L
   143 mEq/L
   23.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2124-10-4**]  05:46 AM
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
                            [**2124-10-9**]  03:49 AM
                            [**2124-10-10**]  03:58 AM
   WBC
   5.6
   5.3
   5.5
   7.1
   7.3
   8.0
   8.4
   Hct
   24.5
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   24.8
   23.8
   Plt
   [**Telephone/Fax (3) 10924**]91
   291
   289
   276
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.5
   0.4
   Glucose
   75
   69
   124
   119
   188
   104
   102
   Other labs: PT / PTT / INR:11.2/30.1/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   58 yo male with significant chronic obstructive lung disease and
   hosptial course complicated by prolonged course with need for very
   close care and pulmonary toilet to maintain secretion clearance.
   Importantly this has been limited by patient with significant pain in
   the setting of rib fracture.
   1)Respiratory Failure-This is in the setting of obstructive lung
   disease as well as some significant chest wall restriction with rib
   fractures and pain.  He maintains intermittent collapse of lobar
   regions which is of concern.  The issue is with bronchoscopy is that we
   have concern for sedation of patient and persistent O2 requirements
   that bronchoscopy will result in substantial risk for intubation and
   not result in durable response in terms of airway clearance.  He will
   need continued support with PT, MIE and intermittent positive pressure
   ventilation.
   -Incentive spirometry 10x/hr while awake
   -MIE tid needed
   -Will move to pulmonary rehab today for ongoing care
   -Tracheostomy has been discussed and current description is that
   tracheostomy is not currently desired and will have to reconsider based
   upon patient course.
   2)Pain Control
   -Fentanyl 200
   -Lidocaine
   -Methadone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 38 minutes

2124-10-11 07:00:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: CML
   24 Hour Events:
   - Had a bed at rehab at 2pm yesterday but at 1pm decided he was not
   comfortable leaving from a respiratory and pain standpoint, although he
   could not identify any acute change
   - Today states
so far so good
 in regards to going to rehab today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-10**] 08:32 AM
   Bactrim (SMX/TMP) - [**2124-10-10**] 08:32 AM
   Voriconazole - [**2124-10-10**] 06:01 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-10**] 07:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-11**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 70 (68 - 93) bpm
   BP: 99/60(69) {91/57(66) - 127/76(87)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 95% 4L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.8 kg (admission): 72.1 kg
                  Total In:
                                                                    600 mL
                                                                    240 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    799 mL
                                                                    344 mL
   Urine:
                                                                    799 mL
                                                                    344 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -199 mL
                                                                   -104 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% 4L NC
   ABG: ///37/
   Physical Examination
   GENERAL: Ill appearing male, able to talk in full sentences, NAD.
   HEENT: No scleral icterus.
   CARDIAC: RRR. Normal s1, s2. No M/G/R.
   LUNGS: Diffusely rhonchorus breath sounds with expiratory wheezing
   bilaterally.  Using accessory muscles.
   ABDOMEN: +BS. Soft. Mildly distended. Slightly tender, especially in
   lower abd. No rebound/guarding.
   EXTREMITIES: Bilateral LE pitting edema.
   Labs / Radiology
   253 K/uL
   7.2 g/dL
   98 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.7 mEq/L
   20 mg/dL
   101 mEq/L
   140 mEq/L
   23.3 %
   7.0 K/uL
        [image002.jpg]
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
                            [**2124-10-9**]  03:49 AM
                            [**2124-10-10**]  03:58 AM
                            [**2124-10-11**]  02:11 AM
   WBC
   5.3
   5.5
   7.1
   7.3
   8.0
   8.4
   7.0
   Hct
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   24.8
   23.8
   23.3
   Plt
   238
   228
   291
   291
   289
   276
   253
   Cr
   0.5
   0.5
   0.5
   0.6
   0.5
   0.4
   0.5
   Glucose
   69
   124
   119
   188
   104
   102
   98
   Other labs: PT / PTT / INR:11.0/27.3/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   58 yo M w/ CML s/p BMT in [**2121**] on chronic immunosuppression w/ recent
   hospitalizations for BOOP, here w/ ESBL E. Coli PNA.
   .
   1. RESPIRATORY STATUS s/p ESBL E.coli PNA:  continues to sat well on 4
   liters nasal canula.  Finished course of Tamiflu, off Droplet
   precautions.  Completed 8 day course of Zosyn for ESBL E.coli PNA.
   -Wean O2 as tolerated
   -Physical therapy
   -Continue albuterol/ipratropium nebs
   -Monthly IVIG
   -OOB as tolerated
   -Continue on inhaled Tobramycin- 4 weeks on, 4 weeks off
   2. HYPONATREMIA
 resolved, consistent with SIADH along with lung
   process
   - Keep fluid balance even today
   - Trend sodium
   .
   #. CML s/p BMT and Chronic GVHD:
   -Continue with PO prednisone  taper per BMT recs (currently at 40mg/
   day since [**10-5**])
   - Once weaned to 20mg prednisone/day over the next 2-3 weeks, will need
   to remain on this dose
   -Continue cellcept  (changed IV to PO)
   -Continue bactrim, acyclovir, and voriconazole for prophylaxis
   -f/u BMT recs
   .
   # Hx of PE, DVT:  multiple PEs in [**2122**] and DVT in early [**2123**].
   -Continue home dose Lovenox 40mg [**Hospital1 **]
   -Continue Metoprolol at lower dose 25mg [**Hospital1 **] for now
   .
   # Multiple Vertebral [**Name (NI) 10902**] pt not consistent w/ pain assessment
   but states pain is well-controlled, only exacerbated with movement.
   - back brace in room
   - pain control with fentanyl patches, methadone, lidocaine patches
   - try to avoid excessive opioids, but can consider morphine IV PRN for
   breakthrough pain
   ICU Care
   Nutrition: Reg diet, PO home meds, replete lytes PRN
   Glycemic Control:  none
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments: daughter who is HCP
   [**Name (NI) 66**] status: FULL
   Disposition: ICU for now, LTACH likely today

2124-10-11 13:03:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Stable respiratory requirements across yesterday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-10-10**] 06:01 PM
   Acyclovir - [**2124-10-11**] 07:55 AM
   Bactrim (SMX/TMP) - [**2124-10-11**] 07:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-11**] 07:55 AM
   Enoxaparin (Lovenox) - [**2124-10-11**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2124-10-11**] 12:52 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 78 (68 - 93) bpm
   BP: 115/73(80) {88/57(66) - 127/76(87)} mmHg
   RR: 12 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.8 kg (admission): 72.1 kg
                  Total In:
                                                                    600 mL
                                                                    360 mL
   PO:
                                                                    600 mL
                                                                    360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    799 mL
                                                                    454 mL
   Urine:
                                                                    799 mL
                                                                    454 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -199 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   253 K/uL
   98 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.7 mEq/L
   20 mg/dL
   101 mEq/L
   140 mEq/L
   23.3 %
   7.0 K/uL
        [image002.jpg]
                            [**2124-10-5**]  05:41 AM
                            [**2124-10-5**]  06:27 PM
                            [**2124-10-6**]  04:11 AM
                            [**2124-10-6**]  02:01 PM
                            [**2124-10-7**]  03:32 AM
                            [**2124-10-7**]  04:31 AM
                            [**2124-10-8**]  02:49 AM
                            [**2124-10-9**]  03:49 AM
                            [**2124-10-10**]  03:58 AM
                            [**2124-10-11**]  02:11 AM
   WBC
   5.3
   5.5
   7.1
   7.3
   8.0
   8.4
   7.0
   Hct
   25.5
   23.5
   24.0
   25.7
   26.4
   24.1
   24.8
   23.8
   23.3
   Plt
   238
   228
   291
   291
   289
   276
   253
   Cr
   0.5
   0.5
   0.5
   0.6
   0.5
   0.4
   0.5
   Glucose
   69
   124
   119
   188
   104
   102
   98
   Other labs: PT / PTT / INR:11.0/27.3/0.9, CK / CKMB /
   Troponin-T:18/4/0.14, ALT / AST:21/24, Alk Phos / T Bili:441/0.2,
   Differential-Neuts:93.0 %, Lymph:3.1 %, Mono:3.6 %, Eos:0.3 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   58 yo male with CML and significant obstructive lung disease now with
   persistent difficulty with clearance of secretions in the setting of
   improving pneumonia.  He has had extensive efforts made at use of MIE,
   flutter valve, incentive spirometry and chest PT which at this point
   has concluded in a path of treatment led by continued O2, use of
   flutter valve and incentive spirometry as primary modes of support with
   greatest yield in terms of maintaining optimized airway patency.
   1)RESPIRATORY FAILURE, CHRONIC
does have excellent insight and
   capacities into the use of assist devices.  We do have ongoing support
   to be maintained as follows.
   -Albuterol
   -Continued usee of flutter valve
excellent technique
   -OOB and ambulation as possible
   -Continue with suctioning and incentive spirometry
   -Will wean gradually to 20mg qd
   2)Pain Control-
   -Fent Patch
   -Methadone
   3)Pneumonia-Tamiflu/Zosyn completed
   -Voriconazole
   -Bactrim QD
   -Tobra inhaled ongoing
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   PICC Line - [**2124-9-29**] 04:56 PM
   Prophylaxis:
   DVT: LMW Heparin
therapeutic doses
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes